### PR TITLE
[Merged by Bors] - chore(List/Basic): add `getElem` lemmas

### PR DESCRIPTION
**Pull request by urkud**
- add `List.head_eq_getElem_zero`;
- add `List.getElem_cons`, deprecate `List.get_cons`;
- add `List.getElem_succ_scanl`, deprecate `List.get_succ_scanl`;
- use `getElem` lemmas for some deprecated `alias`es.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Basic.lean [hunk 1]
```diff
@@ -1365,24 +1367,30 @@ theorem get?_succ_scanl {i : ℕ} : (scanl f b l).get? (i + 1) =
...
-      simp only [length] at h
+    cases l
+    · simp only [length] at h
       exact absurd h (by omega)
-    | cons head tail =>
-      simp_rw [get_of_eq scanl_cons, get_eq_getElem]; rw [getElem_append_right']
-      · simp_rw [length_singleton, Nat.add_one_sub_one]; exact hi
-      · rw [length_singleton]; omega
+    · simp_rw [scanl_cons]
+      rw [getElem_append_right']
```
Comment (urkud) [inline Mathlib/Data/List/Basic.lean:1384]: IMHO, this lemma should be called `getElem_append_right` without `'`, because it's the most useful version for rewriting left to right, but it's not sufficiently important for me to open a core PR.

Comment (semorrison) [reply Mathlib/Data/List/Basic.lean:1384]: (This one is on my TODO list already!)

**Comment by semorrison** [comment]
bors merge
